US09447106B2
Compound 10: 7-(2-Acrylamidophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide
The desired product was prepared from 7-(2-aminophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide and acryloyl chloride using the procedure similar to that for compound 8. 1H NMR (400 MHz, DMSO-d6) δ 9.84 (s, 1H), 7.46-7.37 (m, 7H), 7.33-7.28 (m, 2H), 7.21 (t, J=7.6 Hz, 1H), 7.06 (d, J=8.8 Hz, 2H), 6.81 (br s, 1H), 6.64 (d, J=7.6 Hz, 1H), 6.53 (dd, J=10.3, 16.8 Hz, 1H), 6.27 (d, J=1.8, 16.8 Hz, 1H), 5.59-5.57 (m, 2H), 5.12 (s, 2H), 3.30-3.26 (m, 1H), 3.04-2.92 (m, 1H), 2.35-2.27 (m, 1H) and 1.95-1.97 (m, 1H). MS (ESI) m/e [M+1]+ 493.9.

reactant | 7-(2-aminophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C26H25N5O2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 7-(2-Acrylamidophenyl)-2-(4-(benzyloxy)phenyl)-4,5,6,7-tetrahydro pyrazolo[1,5-a]pyrimidine-3-carboxamide | C(C=C)(=O)NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C(=O)N)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C29H27N5O3
